US04560692
(c) 1-[6-chloro-2-phenyl-4-quinolinyl]-4-piperidinecarboxamide
The named compound was made in a manner analogous to that of Example 4(c) using 4,6-dichloro-2-(4-fluorophenyl)quinoline and isonipecotamide as starting materials. It was obtained as white needles, mp 253°-255° dec on recrystallization from ethanol.

reactant | 4,6-dichloro-2-(4-fluorophenyl)quinoline | ClC1=CC(=NC2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F | C15H8Cl2FN
reactant | isonipecotamide | N1CCC(C(=O)N)CC1 | C6H12N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-[6-chloro-2-phenyl-4-quinolinyl]-4-piperidinecarboxamide | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N1CCC(CC1)C(=O)N | C21H20ClN3O
